US07118899B2
7-Butyryloxy-3-carboxymethylaminocarbonyl-6-chlorocoumarin was prepared as follows. 920 mg (2 mMol) 7-butyryloxy-3-benzyloxycarbonylmethylaminocarbonyl-6-chlorocoumarin were dissolved in 50 ml dioxane. 100 mg palladium on carbon (10%) and 100 microliters acetic acid were added to the solution and the suspension stirred vigorously in a hydrogen atmosphere at ambient pressure. After the uptake of hydrogen seized the suspension was filtered. The product containing carbon was extracted five times with 25 ml boiling dioxane. The combined dioxane solutions were let to cool upon which the product precipitated as a white powder. Reduction of the solvent to 20 ml precipitates more product. The remaining dioxane solution is heated to boiling and heptane is added until the solution becomes cloudy. The weights of the dried powders were 245 mg, 389 mg and 58 mg, totaling 692 mg (1.88 mMol, 94%) of white product.

reactant | 7-butyryloxy-3-benzyloxycarbonylmethylaminocarbonyl-6-chlorocoumarin | 2 mMol, 920 mg | C(CCC)(=O)OC1=C(C=C2C=C(C(OC2=C1)=O)C(=O)NCC(=O)OCC1=CC=CC=C1)Cl | C23H20ClNO7
reactant | acetic acid | 100 microliters | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | 7-Butyryloxy-3-carboxymethylaminocarbonyl-6-chlorocoumarin | C(CCC)(=O)OC1=C(C=C2C=C(C(OC2=C1)=O)C(=O)NCC(=O)O)Cl | C16H14ClNO7
